US06797820B2
To a solution of (2S, 3R)-3-(n-butyl)-2-hydroxysuccinic acid F-4 (300 mg, 1.58 mmol) in 2,2-dimethoxypropane (10 mL) was added p-toluenesulfonic acid (20 mg) and the reaction was stirred at room temperature for 16 h. The solution was diluted with dichloromethane and washed with brine, dried (Na2SO4) and then purified by silica gel chromatography to afford 1.2 mmol 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid F-5 (78%).

reactant | (2S, 3R)-3-(n-butyl)-2-hydroxysuccinic acid | C(CCC)[C@H]([C@@H](C(=O)O)O)C(=O)O | C8H14O5
reactant | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2,2-dimethoxypropane | 10 mL | COC(C)(C)OC | C5H12O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2,2-dimethyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | 1.2 mmol | CC1(OC(C(O1)=O)C(C(=O)O)CCCC)C | C11H18O5
